US05194659
3-Amino-3'-(2-hydroxyethylamino)-2,2',4,4',6,6'-hexanitrobiphenyl (XI)
A mixture of 0.55 g (0.0011 mole) of 3-methoxy-3'-(2-hydroxyethylamino)-2,2',4,4',6,6'-hexanitrobiphenyl and 10 ml of methanol was stirred in an ice bath while a solution of gaseous ammonia in methanol was added until the mixture remained basic to damp pH paper. The mixture was then kept basic with ammonia as it was stirred at room temperature for 3 hours. After standing overnight, the insoluble yellow solid product 3-amino-3'-(2-hydroxyethylamino)-2,2',4,4',6,6'-hexanitrobiphenyl was removed to give 0.45 g (85%), mp 246° C. dec; 1H NMR (acetone-d6 +D2O): 3.28 (t, 2H), 3.90 (t, 2H), 9.50 (overlapping s, 2H).

reactant | 3-methoxy-3'-(2-hydroxyethylamino)-2,2',4,4',6,6'-hexanitrobiphenyl | 0.0011 mole, 0.55 g | COC=1C(=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NCCO)[N+](=O)[O-])[N+](=O)[O-] | C15H11N7O14
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 3-Amino-3'-(2-hydroxyethylamino)-2,2',4,4',6,6'-hexanitrobiphenyl | NC=1C(=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NCCO)[N+](=O)[O-])[N+](=O)[O-] | C14H10N8O13
